US07449475B2
N-(2-{[(2S)-2-Methyloxiran-2-yl]methoxy}-5-(trifluoromethyl)phenyl] acetamide
A mixture of 2-nitro-4-(trifluoromethyl)phenol (310 mg, 1.5 mmol), palladium on carbon (10%, 125 mg) and acetic anhydride (306.3 mg, 3.0 mmol) in methanol was hydrogenated for 2 h at atmospheric pressure. The catalyst was filtered off, the filtrate was concentrated in vacuo to give crude N-[2-hydroxy-5-(trifluoromethyl)phenyl]acetamide (331 mg). A part (219.16 mg, 1.0 mmol) of N-[2-hydroxy-5-(trifluoromethyl)phenyl]acetamide was treated with [(2S)-2-methyloxiran-2-yl]methyl3-nitrobenzenesulfonate (273.27 mg, 1.0 mmol) in the presence of Cs2CO3 (406.25 mg, 1.25 mmol) in DMF (5 mL) at room temperature for 5 h. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was dried over Na2SO4, filtered, concentrated. The residue was purified by silica gel flash chromatography (0-40% ethyl acetate in petroleum ether) to give the subtitled compound (230 mg).

reactant | N-[2-hydroxy-5-(trifluoromethyl)phenyl]acetamide | 1.0 mmol, 219.16 mg | OC1=C(C=C(C=C1)C(F)(F)F)NC(C)=O | C9H8F3NO2
reactant | [(2S)-2-methyloxiran-2-yl]methyl3-nitrobenzenesulfonate | 1.0 mmol, 273.27 mg | C[C@@]1(OC1)COS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C10H11NO6S
reactant | Cs2CO3 | 1.25 mmol, 406.25 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-(2-{[(2S)-2-Methyloxiran-2-yl]methoxy}-5-(trifluoromethyl)phenyl] acetamide | 230 mg | C[C@@]1(OC1)COC1=C(C=C(C=C1)C(F)(F)F)NC(C)=O | C13H14F3NO3
